### PR TITLE
Rezk completion of a bicategory

### PR DESCRIPTION
**Pull request by Kfwullaert**
In this PR, a proof is constructed of how any bicategory is weakly bi-equivalent to a (locally) univalent bicategory, i.e. any bicategory admits a Rezk completion.

### CODE REVIEW

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 1]
```diff
@@ -0,0 +1,2913 @@
...
+
+Local Open Scope cat.
+
+Section Aux.
+
+  Definition RezkCat : UU
+    := ∏ C : category,
+        ∑ D : univalent_category,
+          ∑ H : functor C D,
+            Functors.essentially_surjective H × fully_faithful H.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:46]: Why do you use `Functors.essentially_surjective` here instead of `essentially_surjective`? Also, perhaps this one can be moved to `CategoryTheory`.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 2]
```diff
@@ -0,0 +1,2913 @@
...
+
+  Definition weak_local_equivalence
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:48]: Both these definitions can be moved to `Pseudofunctor.v`. Also, the term `local weak equivalence` would make more sense.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 3]
```diff
@@ -0,0 +1,2913 @@
...
+    split.
+    - use (comp_essentially_surjective (Fmor F x y) _ (Fmor G _ _)).
+      + exact (pr1 (Feso x y)).
+      + apply (pr1 (Geso _ _)).
+    - use (comp_ff_is_ff _ _ _ (Fmor F x y) _ (Fmor G _ _)).
+      + exact (pr2 (Feso x y)).
+      + apply (pr2 (Geso _ _)).
+  Defined.
+
+  Lemma functor_preserve_adj_equiv {C D : bicat}
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:76]: Why do you use `Adjunctions.adjoint_equivalence` instead of `adjoint_equivalence`? Also, this statement can be moved to another file.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 4]
```diff
@@ -0,0 +1,2913 @@
...
+        (Fw : is_weak_biequivalence F)
+        (Gw : is_weak_biequivalence G)
+    : is_weak_biequivalence (comp_psfunctor G F).
+  Proof.
+    split.
+    - apply (comp_essentially_surjective (pr1 Fw) (pr1 Gw)).
+    - apply (comp_weak_local_equivalence (pr2 Fw) (pr2 Gw)).
+  Defined.
+
+  (* The naming here is 'inconsistent' because of the original naming convention used in
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:119]: Sure. You can change the names in that file

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 5]
```diff
@@ -0,0 +1,2913 @@
...
+          apply maponpaths_2.
+          apply (! functor_id (η (hom x x)) _).
+      - intro ; apply (identity_is_z_iso (C := _ ⊠ _)).
+    }
+
+    use (nat_z_iso_comp (nat_z_iso_functor_comp_assoc _ _ _)).
+    use (nat_z_iso_comp (whiskering.post_whisker_nat_z_iso p _) _).
+    use (nat_z_iso_comp (nat_z_iso_inv (nat_z_iso_functor_comp_assoc _ _ _))).
+
+    use (nat_z_iso_comp (whiskering.pre_whisker_nat_z_iso _ _) _).
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:269]: Why do you need `whiskering.pre_whisker_nat_z_iso` instead of `pre_whisker_nat_z_iso`?

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 6]
```diff
@@ -0,0 +1,2913 @@
...
+                   (LRB_composition x x y)
+                )
+                (functor_identity (R (hom x y))).
+  Proof.
+    apply (lift_nat_z_iso_along  (R (hom x y)) _ (eso (hom x y)) (ff_{x,y})).
+    apply LRB_lunitor_nat_z_iso_pre.
+  Defined.
+
+  Definition LRB_lunitor {x y : B} (f : R (hom x y))
+    : z_iso (C := R (hom x y))
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:339]: Is the `(C := R (hom x y))` needed here?

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 7]
```diff
@@ -0,0 +1,2913 @@
...
+
+    transparent assert (q :
+                         (nat_z_iso
+                            (pair_functor (pair_functor (η_{x,y}) (η_{y,z})) (η (hom z w))
+                                          ∙ pair_functor (LRB_composition x y z) (functor_identity (R (hom z w))))
+                            (pair_functor hcomp_functor (functor_identity (hom z w)) ∙ (pair_functor (η _) (η _)))
+                         )
+                       ).
+    {
+      use (nat_z_iso_comp (nat_z_iso_inv (PrecompEquivalence.nat_z_iso_pair _ _ _ _))).
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:428]: `PrecompEquivalence` can be imported

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 8]
```diff
@@ -0,0 +1,2913 @@
...
+    }
+    use (nat_z_iso_comp _ (nat_z_iso_inv (nat_z_iso_functor_comp_assoc _ _ _))).
+    use (nat_z_iso_comp _ (whiskering.post_whisker_nat_z_iso q' _)).
+    use (nat_z_iso_comp _ (nat_z_iso_functor_comp_assoc _ _ _)).
+    use (nat_z_iso_comp _ (whiskering.pre_whisker_nat_z_iso _ _)).
+    3: apply nat_z_iso_inv, LRB_composition_comm.
+    apply nat_z_iso_inv, nat_z_iso_functor_comp_assoc.
+  Defined.
+
+  Lemma LRB_lunitor_pre0 {x y : B} (f : B⟦x,y⟧)
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:480]: What do you mean with this name?

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 9]
```diff
@@ -0,0 +1,2913 @@
...
+      use total2_paths_f.
+      2: apply isaprop_is_z_isomorphism.
+      apply idpath.
+    }
+
+    induction p.
+    apply R.
+  Qed.
+
+  Definition psfunctor_B_to_LRB_data
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:2839]: You should import the right file here

**Review by nmvdw — APPROVED** [review]

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 1 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:46]: I use Functors.essentially_surjective because essentially_surjective automatically refers to essentially surjectiveness of pseudo-functors. If I move this in CategoryTheory, then this issue will not arise. But regarding the next comment, i.e. the definition of local_weak_equivalence, "Functors." still has to be added.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 7 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:428]: This is something that I don't understand. I have it actually imported, but nat_z_iso_pair is still not recognized without PrecompEquivalence.

**Comment by Kfwullaert** [comment]
@nmvdw Currently there are two missing pieces (w.r.t. this review).
1: Regarding the composition of weak biequivalences, this is not something that I can put in Pseudofunctor.v (as it e.g. uses the composition of pseudofunctors).
2: Regarding the definition of Rezk completion of a category (as a weak equivalence into a univalent category), I've created a separate file for it (CategoryTheory/RezkCompletion.v), I find it strange to just have a file with one definition, so I could also instantiate it with e.g. the construction of the Rezk completion using the representable presheaves.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 1 above)
Comment (nmvdw) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v]: What do you think of renaming `essentially_surjective` for bicategories?

**Comment by nmvdw** [comment]
> @nmvdw Currently there are two missing pieces (w.r.t. this review).
> 1: Regarding the composition of weak biequivalences, this is not something that I can put in Pseudofunctor.v (as it e.g. uses the composition of pseudofunctors).

The file `Pseudofunctor.v` currently contains several properties of pseudofunctors. Maybe we can give these their own file.

> 2: Regarding the definition of Rezk completion of a category (as a weak equivalence into a univalent category), I've created a separate file for it (CategoryTheory/RezkCompletion.v), I find it strange to just have a file with one definition, so I could also instantiate it with e.g. the construction of the Rezk completion using the representable presheaves.

This file might ultimately grow, because one could prove some properties about Rezk completions there.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 10]
```diff
@@ -0,0 +1,2817 @@
+(*
+In this file, it is proven how any bicategory is weakly biequivalent to a locally univalent bicategory.
```
Comment (benediktahrens) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:2]:
```suggestion
In this file, it is shown how any bicategory is weakly biequivalent to a locally univalent bicategory.
```

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 11]
```diff
@@ -0,0 +1,2817 @@
...
+hom x y := RC(hom x y),
+where RC is the Rezk completion for categories.
+Since each hom-category of LRB is univalent, it is indeed locally univalent .
+There is a pseudofunctor from B to LRB which is the identity on objects and
+its action on morphisms is induced by the unit of the rezk completion of RC(hom _ _).
+
+Most work lies in showing how LRB is indeed a bicategory.
+In essence, this follows since all pieces of data (at level 1 and 2) of a bicategory correspond with a functor between some hom-categories. Those pieces of data can then be constructed using the universal property of the Rezk completion.
+
+As a consequence, we can conclude that any bicategory admit a Rezk completion (this is formulated in Bicategories/RezkCompletions/RezkCompletion.v
```
Comment (benediktahrens) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:14]:
```suggestion
As a consequence, we can conclude that any bicategory admits a Rezk completion (this is formulated in Bicategories/RezkCompletions/RezkCompletion.v
```

File: UniMath/Bicategories/RezkCompletions/RezkCompletion.v [hunk 12]
```diff
@@ -0,0 +1,60 @@
+(* In this file, we combine the results that any bicategory is weak biequivalent to a locally univalent bicategory and
```
Comment (benediktahrens) [inline UniMath/Bicategories/RezkCompletions/RezkCompletion.v:1]: The name of this file is weird. If there are multiple completions (as indicated by the name of the directory), then the file name should be more descriptive, and indicate which one of the completions is contained in this file.

File: UniMath/CategoryTheory/RezkCompletion.v [hunk 13]
```diff
@@ -0,0 +1,21 @@
...
+    := ∏ C : category,
+        ∑ D : univalent_category,
+          ∑ H : functor C D,
+            essentially_surjective H × fully_faithful H.
+
+End DefinitionRezkCompletion.
+
+Section RezkCompletionUsingYoneda.
+
+End RezkCompletionUsingYoneda.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/RezkCompletion.v:21]: ?
```suggestion
```

**Review by benediktahrens — CHANGES_REQUESTED** [review]

File: UniMath/Bicategories/RezkCompletions/RezkCompletion.v (hunk 12 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/RezkCompletion.v]: This is now solved

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 9 above)
Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:2778]: This is solved, but because this comment was pointed differently, this is not considered to be solved by Git.

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 7 above)
Comment (benediktahrens) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:370]: @nmvdw : do you understand what is happening here?

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v [hunk 14]
```diff
@@ -0,0 +1,2852 @@
...
+            (eso3 _ _ _)
+            (ff3 _ _ _)
+            (LRB_associator_nat_z_iso_pre x y z w)
+         )
+       = LRB_associator_nat_z_iso_pre x y z w.
+  Proof.
+    apply (lift_nat_trans_along_comm _ _ _ _ (LRB_associator_nat_z_iso_pre x y z w)).
+  Defined.
+
+  Lemma LRB_associator_pre_simpl_mor {x y z w : B} (f : B⟦x,y⟧) (g : B⟦y,z⟧) (h : B⟦z,w⟧)
```
Comment (benediktahrens) [inline UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:489]: Why is this called "Lemma"?

File: UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v (hunk 7 above)
Comment (nmvdw) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:370]: https://github.com/UniMath/UniMath/blob/5ed9fe58af25c218ac3d4a877b37785ac9089f5e/UniMath/CategoryTheory/PrecompEquivalence.v#L332

It seems to be a local lemma, so it is only meant to be used within that section.

Comment (Kfwullaert) [reply UniMath/Bicategories/RezkCompletions/BicatToLocalUnivalentBicat.v:370]: @nmvdw Thanks, I'll change this!

File: UniMath/Bicategories/PseudoFunctors/PseudoFunctor.v [hunk 15]
```diff
@@ -498,7 +515,29 @@ Definition weak_equivalence
...
+  := essentially_surjective F × local_weak_equivalence F.
+
+Lemma weak_equivalence_to_is_weak_biequivalence
+      {B1 B2 : bicat}
+      {u1 : is_univalent_2_1 B1}
+      {u2 : is_univalent_2_1 B2}
+      (F : psfunctor B1 B2)
+  : weak_equivalence u1 u2 F -> weak_biequivalence F.
+Proof.
+  About FullyFaithful.
```
Comment (benediktahrens) [inline UniMath/Bicategories/PseudoFunctors/PseudoFunctor.v:531]:
```suggestion
```

**Review by benediktahrens — APPROVED** [review]
